US09127015B2
Preparation of the 2,4-dimethyl-N-[1-methyl-8-(pyrrolidin-1-ylcarbonyl)-4,5-dihydro-1H-pyrazolo[4,3-g]indolizin-3-yl]benzamide (I)
After dissolving the compound 2,4-dimethyl-N-[8-(pyrrolidin-1-ylcarbonyl)-4,5-dihydro-1H-pyrazolo[4,3-g]indolizin-3-yl]benzamide (A35-M1-B8, Entry 200, Table III), obtained as described in the example 9, in dichloromethane 2 equivalent of methyl iodide were added. After four hours of stirring at room temperature, water was added and the phases were separated. The organic layer was Dried over Na2SO4 and the crude was purified through preparative HPLC. LCMS m/z 418 [M+H]+@ Rt2.87 min.

reactant | 2,4-dimethyl-N-[8-(pyrrolidin-1-ylcarbonyl)-4,5-dihydro-1H-pyrazolo[4,3-g]indolizin-3-yl]benzamide | CC1=C(C(=O)NC2=NNC3=C2CCN2C=C(C=C32)C(=O)N3CCCC3)C=CC(=C1)C | C23H25N5O2
reactant | dichloromethane | 2 equivalent | ClCCl | CH2Cl2
reactant | methyl iodide | CI | CH3I
solvent | water | O | H2O
product | 2,4-dimethyl-N-[1-methyl-8-(pyrrolidin-1-ylcarbonyl)-4,5-dihydro-1H-pyrazolo[4,3-g]indolizin-3-yl]benzamide | CC1=C(C(=O)NC2=NN(C3=C2CCN2C=C(C=C32)C(=O)N3CCCC3)C)C=CC(=C1)C | C24H27N5O2
